US08278457B2
Step 2. Synthesis of trans-4-(4-bromophenoxy)tetrahydrofuran-3-yl methanesulfonate
Triethylamine (181.9 mL, 1.31 mol) was added to a solution of trans-4-(4-bromophenoxy)tetrahydrofuran-3-ol from the previous step (354 g, assumed 300.6 g, 1.16 mol) in methylene chloride (2 L), and the reaction was cooled to 0° C. in an ice bath. Methanesulfonyl chloride (101.3 mL, 1.31 mol) was then added drop-wise, while keeping the reaction temperature below 5° C., and the reaction was stirred at room temperature for 18 hours. Water (1.5 L) was added, and the aqueous layer was extracted with methylene chloride. The organics were combined and dried over sodium sulfate, filtered and concentrated in vacuo to afford product as a brown oil. Yield: 399.6 g, 1.18 mol, quantitative. Material from a smaller-scale experiment carried out in similar fashion was triturated with ethanol for characterization. 1H NMR (400 MHz, CDCl3) δ 3.10 (s, 3H), 4.00 (br dd, J=10.4, 1.9 Hz, 1H), 4.07 (m, 1H), 4.16 (dd, J=11.1, 3.9 Hz, 1H), 4.23 (dd, J=10.5, 4.6 Hz, 1H), 4.98 (br d, J=4.6 Hz, 1H), 5.20 (m, 1H), 6.85 (d, J=9.1 Hz, 2H), 7.42 (d, J=9.0 Hz, 2H).

reactant | Triethylamine | 1.31 mol, 181.9 mL | C(C)N(CC)CC | C6H15N
reactant | trans-4-(4-bromophenoxy)tetrahydrofuran-3-ol | BrC1=CC=C(O[C@H]2[C@@H](COC2)O)C=C1 | C10H11BrO3
reactant | Methanesulfonyl chloride | 1.31 mol, 101.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 1.5 L | O | H2O
solvent | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
product | trans-4-(4-bromophenoxy)tetrahydrofuran-3-yl methanesulfonate | CS(=O)(=O)O[C@@H]1COC[C@H]1OC1=CC=C(C=C1)Br | C11H13BrO5S
